US05308837
Step A: Ethyl 2,2-Difluoro-3-Hydroxypropionate
A mixture of paraformaldehyde (4.5 g, 50 mmol), ethyl difluorobromoacetate (10.2 g, 50 mmol) and activated zinc dust (3.3 g, 40 mmol) in anhydrous tetrahydrofuran was heated under reflux for 0.5 h. Then the mixture was treated with a saturated aqueous solution of ammonium chloride and extracted with diethyl ether. After usual work-up the desired compound ethyl 2,2-difluoro-3-hydroxypropionate was obtained by flash chromatography on silica gel (ethyl acetate:hexane; 25:75) (4.1 g, 53%).

reactant | paraformaldehyde | 50 mmol, 4.5 g | C=O | CH2O
reactant | ethyl difluorobromoacetate | 50 mmol, 10.2 g | FC(C(=O)OCC)(Br)F | C4H5BrF2O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | zinc | 40 mmol, 3.3 g | [Zn] | Zn
product | ethyl 2,2-difluoro-3-hydroxypropionate | FC(C(=O)OCC)(CO)F | C5H8F2O3
